US05977110
A suspension of LiAlH4 (3.32 g, 0.0875 mol) in dry THF (125 mL) at 0° was treated with a solution of AlCl3 (40 g, 0.03 mol) in dry Et2O (125 mL) and stirred for 30 minutes. Over a 10-minute period, a solution of trans-{4-[2-oxo-2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexyl}-amine (10.54 g, 0.035 mol) in THF (150 mL) was added, and the reaction mixture was allowed to warm to room temperature. After 20 hours, the reaction mixture was cooled in ice-water and treated with THF (50 mL) containing H2O (3 mL), then with 50% NaOH (3 mL) and H2O (6 mL). The inorganic material was filtered off through a Celite pad, and the solids were washed thoroughly with THF. The combined filtrates were evaporated to dryness, and the residue was taken up in CH2Cl2, dried (Na2SO4), and concentrated to yield trans-N-{4-[2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexylamine as a white solid, 9.64 g (96%), which was used without further purification; mp 65-70° C.

reactant | LiAlH4 | 0.0875 mol, 3.32 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AlCl3 | 0.03 mol, 40 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | trans-{4-[2-oxo-2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexyl}-amine | 0.035 mol, 10.54 g | O=C(C[C@@H]1CC[C@H](CC1)N)N1CCN(CC1)C1=CC=CC=C1 | C18H27N3O
reactant | NaOH | 3 mL | [OH-].[Na+]
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | Et2O | 125 mL | CCOCC | C4H10O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 6 mL | O | H2O
solvent | H2O | 3 mL | O | H2O
product | 4-[2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexylamine | C1(=CC=CC=C1)N1CCN(CC1)CCC1CCC(CC1)N | C18H29N3
